US09102684B2
2-Amino-4-bromo-3-methoxy-benzoic acid
H2O2 (37%, 7.7 mL, 0.075 mol) in H2O (70 mL) is slowly added to the solution of 6-Bromo-7-methoxy-1H-indole-2,3-dione (8.0 g, 0.0312 mol), NaOH (8.8 g, 0.219 mol) in H2O (200 mL) then stirred at room temperature for 1 hour. After reaction, the mixture is filtered and the solid is dried under vacuum to give the desired product.

reactant | H2O2 | 0.075 mol, 7.7 mL | OO | H2O2
reactant | 6-Bromo-7-methoxy-1H-indole-2,3-dione | 0.0312 mol, 8.0 g | BrC1=CC=C2C(C(NC2=C1OC)=O)=O | C9H6BrNO3
reactant | NaOH | 0.219 mol, 8.8 g | [OH-].[Na+]
solvent | H2O | 70 mL | O | H2O
solvent | H2O | 200 mL | O | H2O
product | 2-Amino-4-bromo-3-methoxy-benzoic acid | NC1=C(C(=O)O)C=CC(=C1OC)Br | C8H8BrNO3
